US09193723B2
N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(propan-2-ylsulfonyl)azetidin-3-yl]benzamide
In a 4 mL vial was mixed 4-(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide bis(2,2,2-trifluoroacetate) (60 mg, 0.112 mmol) in anhydrous tetrahydrofuran (2 mL) at room temperature. To this mixture was added in portions 60% sodium hydride in mineral oil (22.45 mg, 0.561 mmol). This heterogeneous mixture was stirred 1 hour. To this was added propane-2-sulfonyl chloride (0.015 mL, 0.135 mmol) at and reaction mixture was stirred for 3 hours. The mixture was quenched with water, and product was extracted with 10% methanol/dichloromethane. The organic layers were combined, concentrated and purified by normal phase chromatography to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 9.07 (m, 1H), 8.47 (d, J=7.0 Hz, 1H), 7.90 (m, 3H), 7.48 (m, 3H), 7.37 (s, 1H), 6.84 (m, 1H), 4.50 (d, J=5.9 Hz, 2H), 4.22 (m, 2H), 3.93 (m, 3H), 3.48 (m, 1H), 1.25 (d, J=5.9 Hz, 6H); MS (ESI(+)) m/e 413 (M+H)+.

reactant | 4-(azetidin-3-yl)-N-(imidazo[1,2-a]pyridin-7-ylmethyl)benzamide bis(2,2,2-trifluoroacetate) | 0.112 mmol, 60 mg | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N1CC(C1)C1=CC=C(C(=O)NCC2=CC=3N(C=C2)C=CN3)C=C1
reactant | sodium hydride | [H-].[Na+]
reactant | propane-2-sulfonyl chloride | 0.135 mmol, 0.015 mL | CC(C)S(=O)(=O)Cl | C3H7ClO2S
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-(imidazo[1,2-a]pyridin-7-ylmethyl)-4-[1-(propan-2-ylsulfonyl)azetidin-3-yl]benzamide | N=1C=CN2C1C=C(C=C2)CNC(C2=CC=C(C=C2)C2CN(C2)S(=O)(=O)C(C)C)=O | C21H24N4O3S
